Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fatigue, nausea, vomiting, hypotension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ yo woman with metastatic breast cancer now 
on
taxol (___), who presents with nausea, vomiting, fatigue,
and was found to have hypotension to ___. 

Ms. ___ reports that she has had months of nausea, vomiting, and
abdominal discomfort that were ultimately worked up and found to
be from metastatic recurrence of breast cancer with liver 
lesions
in ___. More recently, she began taxol ___ and last received
this ___. A few days after C1D7 of taxol she had fatigue and
nausea with multiple episodes of emesis (nonbloody, occasionally
bilious) whenever she attempted to eat. Over these last 2 weeks
with chemotherapy, she feels she also has been greatly
deconditioned with dyspnea and intermittent cough productive of
white phlegm. She endorses lightheadedness whenever she got up 
to
walk around at home during this time period. 

She denies any fevers/chills, sick contacts, cold symptoms,
diarrhea, suspicious food intake. 

In the ED, she was found to be hypotensive to 74/50 w/ HR 108, T
96.1, 100% on RA. Per ED report she was notably tachypneic to 32
and unable to complete sentences. Ms. ___ herself is not able to
give a clear report that this occurred. She received stress dose
hydrocort and 2 L NS with stabilization of BPs to
100s-130s/70s-90s. 

A CTA was obtained: 
1. No evidence of pulmonary embolism or aortic abnormality.
2. Mediastinal and hilar lymphadenopathy of indeterminate
chronicity and etiology. Comparison to prior studies is
recommended.
3. Numerous reticulonodular pulmonary opacities are typical of
bronchiolitis in the setting of small airways disease. No large
focal consolidations.
4. Osseous lucencies within the T6 vertebra and anterolateral
right fourth rib are worrisome for metastasis.
5. Likely subacute healing fracture of the posterolateral right
sixth rib. Pathologic fracture is difficult to exclude.
6. Likely pulmonary arterial hypertension.

EKG was normal sinus without ischemic changes. Lactate 3.2-> 1.7
after fluids. Troponin negative. 

 
Past Medical History:
HTN
HLP
IDDM 
Obesity
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; sister with breast cancer, father with 
prostate cancer. 

 
Physical Exam:
ADMISSION EXAM:

VITALS: ___ 0044 BP: 124/83 L Lying HR: 98 O2 sat: 96% O2
delivery: RA 
___ 0044 BP: 128/84 L Standing HR: 95 O2 sat: 96% O2
delivery: RA 

General: Well appearing obese ___ woman, resting in
bed comfortably. Breathing comfortably on RA
Neuro:
Cranial nerves: PERRL, EOMI, Facial sensation equal bilaterally,
resists eye opening ___, hearing intact to finger rub b/l, 
palate
elevates symmetrically, tongue midline, shoulder shrug ___

Moves all extremities to command without difficulty
Sensation intact to light touch over UE and ___

Alert and oriented to person, place (___) and time (___)
HEENT: Oropharynx clear, MMM, no cervical/supraclavicular LAD
Cardiovascular: RRR no murmurs heard
Chest/Pulmonary: Lungs clear to auscultation bilaterally
Abdomen: Soft, nontender, nondistended. No suprapubic tenderness
to palpation
Extr/MSK: No peripheral edema, no calf tenderness
Skin: No rashes. +Tattoos
Access: R POC not accessed (reportedly had ?serous return when
attempted to access in ED). Overlying scab from recent 
placement,
surgical incision site looks clean, no surround erythema,
fluctuance, tenderness to palaption

DISCHARGE EXAM:

Patient examined on day of discharge. AVSS. Able to walk ~ 500 
feet with a normal gait and no shortness of breath. Lungs CTAB. 
Port accessed successfully with. No erythema surrounding her 
port. 
 
Pertinent Results:
LABORATORY RESULTS: 

___ 10:10AM BLOOD WBC-4.8 RBC-5.08 Hgb-13.7 Hct-40.8 
MCV-80* MCH-27.0 MCHC-33.6 RDW-15.1 RDWSD-42.7 Plt ___
___ 12:00AM BLOOD WBC-5.7 RBC-4.00 Hgb-10.8* Hct-33.1* 
MCV-83 MCH-27.0 MCHC-32.6 RDW-15.3 RDWSD-44.7 Plt ___
___ 06:40AM BLOOD Neuts-61.6 ___ Monos-5.7 Eos-0.0* 
Baso-0.3 Im ___ AbsNeut-4.20 AbsLymp-2.17 AbsMono-0.39 
AbsEos-0.00* AbsBaso-0.02
___ 10:10AM BLOOD Neuts-47.3 ___ Monos-5.9 Eos-0.2* 
Baso-0.8 Im ___ AbsNeut-2.26 AbsLymp-2.17 AbsMono-0.28 
AbsEos-0.01* AbsBaso-0.04
___ 10:10AM BLOOD Glucose-381* UreaN-17 Creat-1.3* Na-132* 
K-4.5 Cl-95* HCO3-19* AnGap-18
___ 12:00AM BLOOD Glucose-231* UreaN-17 Creat-0.9 Na-138 
K-4.6 Cl-100 HCO3-24 AnGap-14
___ 10:10AM BLOOD ALT-36 AST-34 AlkPhos-177* TotBili-0.5
___ 10:10AM BLOOD Lipase-29
___ 10:10AM BLOOD cTropnT-<0.01
___ 10:10AM BLOOD proBNP-6
___ 06:40AM BLOOD Calcium-9.3 Phos-3.7 Mg-1.8
___ 10:15AM BLOOD ___ pO2-131* pCO2-19* pH-7.64* 
calTCO2-21 Base XS-2
___ 10:15AM BLOOD Lactate-3.2*
___ 03:35PM BLOOD Lactate-1.7
___ 10:15AM BLOOD O2 Sat-98

TTE:

Suboptimal image quality. Normal biventricular cavity sizes, 
regional/global systolic function.
No valvular pathology or pathologic flow identified. Normal 
estimated pulmonary artery systolic pressure. No
echocardiographic evidence for left ventricular diastolic 
dysfunction. Mild ascending aorta dilation.

CTA:

 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Mediastinal and hilar lymphadenopathy of indeterminate 
chronicity and 
etiology. Comparison to prior studies is recommended. 
3. Numerous reticulonodular pulmonary opacities are typical of 
bronchiolitis 
in the setting of small airways disease. No large focal 
consolidations. 
4. Osseous lucencies within the T6 vertebra and anterolateral 
right fourth rib 
are worrisome for metastasis. 
5. Likely subacute healing fracture of the posterolateral right 
sixth rib.  
Pathologic fracture is difficult to exclude. 
6. Likely pulmonary arterial hypertension. 

MICROBIOLIOGY:

   Blood Culture, Routine (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
      Reported to and read back by ___ (___) @14:13 
(___). 
 
___ BCx x2 NGTD

 
Brief Hospital Course:
Ms. ___ was IV fluid resuscitated in the emergency room, with 
another liter on the floor, with complete resolution of her 
hypotension, nausea, and vomiting. She was able to tolerate a 
regular diet and ambulate at her baseline. The cause of her 
hypotension was likely due to her chemotherapy. I discussed this 
with Dr. ___ will see her in follow up.

HOSPITAL COURSE BY PROBLEM

1. Hypotension, due to severe nausea and vomiting. Resolved. 
Will follow up with Dr. ___.

2. Coagulase negative staph bacteremia. One of four bottles. 
Patient was afebrile with no signs of infection; this was almost 
certainly contamination. Repeat blood cultures were negative. 
She did not receive antibiotics, but has been counseled to look 
out for fevers.

3. Large pulmonary artery seen on CT scan. Patient gave history 
of progressive shortness of breath, with a large PA seen on CT 
c/w PAH. However, a TTE was performed which showed no PAH. 
Patient also expressed that her breathlessness had resolved with 
IV fluid hydration. 

4. Metastatic breast CA. Dr. ___ continue taxol as an 
outpatient.

5. DM2. Home glipizide and Trulicity

6. HTN. Her lisinopril-HCTZ was held on admission, restarted on 
discharge.

7. ___. Her creatinine was mildly elevated on admission, 
returned to normal with IV fluid hydration.

> 35 minutes spent on discharge activities.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. GlipiZIDE 5 mg PO BID 
3. Trulicity (dulaglutide) 0.75 mg/0.5 mL subcutaneous 1X/WEEK 
4. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
5. Pravastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  GlipiZIDE 5 mg PO BID  
3.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
4.  Pravastatin 20 mg PO QPM  
5.  Trulicity (dulaglutide) 0.75 mg/0.5 mL subcutaneous 1X/WEEK  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypotension due to nausea and vomiting

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted with hypotension (low blood pressure) because 
of severe nausea and vomiting from your chemotherapy. You were 
treated with intravenous (IV) fluids, and felt much better -- 
you were able to keep down your meals as well. I discussed your 
case with Dr. ___ will see you as an outpatient.

You also complained of increased shortness of breath. Your CT 
scan did suggest pulmonary arterial hypertension; however, I got 
an ultrasound of your heart which was normal. Your shortness of 
breath was markedly improved with fluids alone.

You did have bacteria in your blood. Fortunately, this appears 
to have been a contaminant (that is, coming from your skin when 
your blood was drawn). You do not need any antibiotics for this.
 
Followup Instructions:
___